US09162987B2
4-Iodo-6-(3-acetylaminophenyl)pyrimidine (ACT-MIF-021)
The compound was prepared according to Example 1 using 3-acetylaminophenylboronic acid and 4,6-dichloropyrimidine. The resultant chloro compound was converted to iodo with hydroiodic acid as described in the general procedure.

reactant | 3-acetylaminophenylboronic acid | C(C)(=O)NC=1C=C(C=CC1)B(O)O | C8H10BNO3
reactant | 4,6-dichloropyrimidine | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | hydroiodic acid | I | HI
product | 4-Iodo-6-(3-acetylaminophenyl)pyrimidine | IC1=NC=NC(=C1)C1=CC(=CC=C1)NC(C)=O | C12H10IN3O
